US08669234B2
A mixture of [2-(4-Bromo-phenyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester (1 g, 3.2 mmol), [2-methyl-1-(2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (1.57 g, 3.2 mmol), tetrakis(triphenylphosphine)palladium(0) (183 mg, 0.15 mmol), potassium carbonate (878 mg, 6.5 mmol), 1,2-dimethoxyethane (25 mL) and water (2.5 mL) was stirred at 80° C. for 16 hours. The mixture was cooled and all volatiles were removed under reduced pressure. The resulting residue was taken up in dichloromethane (100 mL) and washed with water (25 mL) and saturated sodium chloride (25 mL). The organic phase was dried over sodium sulfate and filtered. The solvent was removed under reduced pressure and the residue was subjected to flash chromatography with eluent of (10% methanol in ethyl acetate) and hexane. The product-containing fractions were combined and the solvent was removed under reduced pressure to provide [1-(2-{5-[4′-(2-tert-butoxycarbonylamino-acetyl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester (869 mg, 1.4 mmol, 44%).

reactant | [2-(4-Bromo-phenyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | 3.2 mmol, 1 g | C(C)(C)(C)OC(NCC(=O)C1=CC=C(C=C1)Br)=O | C13H16BrNO3
reactant | [2-methyl-1-(2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 3.2 mmol, 1.57 g | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C26H37BN4O5
reactant | potassium carbonate | 6.5 mmol, 878 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dimethoxyethane | 25 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.15 mmol, 183 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 2.5 mL | O | H2O
product | [1-(2-{5-[4′-(2-tert-butoxycarbonylamino-acetyl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | 1.4 mmol, 869 mg, 44% | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(CNC(=O)OC(C)(C)C)=O)=O | C33H41N5O6
